datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])([C:6]([O:7][O:8])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:17])([H:15])[H:16])([H:13])[H:14])=[C:6]([H:18])[H:19])([H:9])([H:10])[H:11].[O:7][O:8][H:12],120.9176
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16]>>[C:0]([C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])([H:7])[C:12]([C:13](=[C:14]([H:18])[H:19])[H:17])([H:15])[H:16])([H:4])([H:5])[H:6],46.8608
[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])([H:11])[H:12])([H:8])([H:9])[H:10].[C:24]([H:25])([H:26])[H:27]>>[C:0]([C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([H:22])[H:23])[H:12])([H:8])([H:9])[H:10].[H:11][C:24]([H:25])([H:26])[H:27],56.718304
[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:4])([H:5])[H:6].[Cl:14]>>[C:0]([C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[H:4][Cl:14],0.997737
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([S:1][C:8]([H:9])([H:10])[H:11])([H:4])([H:5])[H:6].[S:2][S:3][H:7],6.6944
[C:0]([C:1]([C:2]1=[C:3]([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]1[H:15])([H:9])[H:10])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])([H:10])[C:2]2[C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]2[H:15],109.2024
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([C:10]([S:11][H:17])([H:15])[H:16])([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[H:15])[H:4].[C:9]([C:10]([S:11][H:17])[H:16])([H:12])([H:13])[H:14],41.84
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27][H:28]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:27][H:28],-10.882584
[C:0]([C:1]1([H:13])[C:2]([H:14])[C:3]([H:15])=[C:4]2[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20])([H:10])([H:11])[H:12]>>[C:0]([H:10])([H:11])[H:12].[C:1]1([H:13])=[C:2]([H:14])[C:3]([H:15])=[C:4]2[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20],217.1496
[C:0](#[C:1][C:2]([C:3]([H:14])([H:15])[H:16])[C:4]([C:5]([C:6]([C:7]([C:8]([H:23])([H:24])[H:25])=[C:9]([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])[H:13]>>[C:0](#[C:1][C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([C:8]([H:23])([H:24])[H:25])[C:9]1([C:10]([H:26])([H:27])[H:28])[C:11](=[C:12]([H:30])[H:31])[H:29])[H:13],72.2995
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13]([C:14]([H:26])([H:27])[H:28])=[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])([H:23])([H:24])[H:25]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:13]([C:12]([H:23])([H:24])[H:25])([C:14]([H:26])([H:27])[H:28])[C:15]([C:16]([H:29])([H:30])[H:31])[c:17]1[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]1[H:36])[H:7])([H:5])[H:6],72.6342
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[S:5][H:13])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:6].[S:5]([H:13])[C:14]([H:15])([H:16])[H:17],28.4512
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][H:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])[H:15])([H:11])([H:12])[H:13].[H:14][O:35][H:36],-2.493664
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:15]([C:14]([H:22])([H:23])[H:24])([c:16]1[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]([H:29])[c:21]1[H:30])[H:25])[H:6],45.4801
